US06335445B1
9.1) 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl}-phenol
2.07 g (10 mmoles) of 1-(4-nitrophenyl)piperazine, 2.5 g (10 mmoles) of 3,5-di-tert-butyl-4-hydroxybenzoic acid and 2.26 g (11 mmoles) of dicyclohexylcarbodiimide are introduced into a 100 ml flask containing 25 ml of DMF. The reaction medium is agitated for 15 hours at ambient temperature, the precipitate which appears is filtered out and rinsed with ethyl acetate. After concentration of the filtrate under reduced pressure, the residue is diluted in 20 ml of ethyl acetate and a new insoluble is eliminated by filtration. The solvent is evaporated off under vacuum and the residue is precipitated from diethyl ether. The solid is filtered, rinsed with 2×20 ml of ethyl acetate in order to obtain a yellow powder with a yield of 89%. Melting point: 159.5-160.5° C.

reactant | 1-(4-nitrophenyl)piperazine | 10 mmoles, 2.07 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | 3,5-di-tert-butyl-4-hydroxybenzoic acid | 10 mmoles, 2.5 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | dicyclohexylcarbodiimide | 11 mmoles, 2.26 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2,6-bis-(1,1-dimethylethyl)-4-{[4-(4-nitrophenyl)-1-piperazinyl]-carbonyl}-phenol | yield of 89% | CC(C)(C)C1=C(C(=CC(=C1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C(C)(C)C)O | C25H33N3O4
